US07851493B2
To a solution of 80 mg of 3-{2-methoxy-4-[4-thiomorpholin-4-ylmethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one in 1 mL of methanol was added 2 mL of a 2N solution of hydrochloric acid in diethylether. The resulting mixture was concentrated under reduced pressure. To a solution of the residue in 1 mL of acetonitrile were added 1 mL of water and 88 mg of Oxone®. The resulting mixture was stirred at room temperature for 1 h, then poured into water and extracted with dichloromethane. The organic extracts were washed with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient of methanol in dichloromethane) to give 10.5 mg of 3-{2-methoxy-4-[4-(1-oxo-1λ4-thiomorpholin-4-ylmethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-1,2,4-oxadiazol-5-one as white solid.

reactant | 3-{2-methoxy-4-[4-thiomorpholin-4-ylmethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one | 80 mg | COC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CN1CCSCC1)C1=NOC(N1)=O | C25H23F3N4O4S2
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 1 mL | CO | CH4O
solvent | diethylether | C(C)OCC | C4H10O
product | 3-{2-methoxy-4-[4-(1-oxo-1λ4-thiomorpholin-4-ylmethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-1,2,4-oxadiazol-5-one | 10.5 mg | COC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CN1CCS(CC1)=O)C1=NOC(N1)=O | C25H23F3N4O5S2
